US04385177
(a) Phenyl chloroacetohydroxamate
This compound was prepared from phenoxyamine hydrochloride and chloroacetyl chloride by the method described in Preparation 1, m.p. 126°-128° (decomp.), λmax (EtOH) 266.5 nm (ε15,400), νmax (Nujol) 3340, 3260, 3140 (--NH--), 1720, 1710, 1690 cm-1 (--CONH--), τ(DMSO d6) 5.79 (ClCH2CO--), -2.2 (--NH--), 2.3-3.2 (phenyl). Yield 67%

reactant | phenoxyamine hydrochloride | Cl.O(C1=CC=CC=C1)N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | EtOH | CCO | C2H6O
solvent | DMSO | CS(=O)C | C2H6OS
product | Phenyl chloroacetohydroxamate | Yield 67% | ClCC(=O)NOC1=CC=CC=C1 | C8H8ClNO2
